US04496551
A solution of 14.4 g (0.075 mol) of 4-bromochlorobenzene and 9.5 ml (12.3 g, 0.075 mol) of chloromethyl(dichloro)methylsilane in 150 ml of tetrahydrofuran was stirred under nitrogen and cooled in dry ice-acetone while 94 ml (0.15 mol) of 1.6 molar n-butyllithium in hexane was added dropwise at a rate that held the mixture between -65° and -55°. The resulting slurry was allowed to warm to room temperature, giving a solution that was diluted with hexanes until no more lithium chloride precipitated. Filtration, evaporation of the filtrate, dissolution of the residue in hexanes, refiltration, and evaporation left 19.8 g of a pale orange liquid. Distillation gave first 1.8 g (12%) of chloromethyl(dibutyl)methylsilane, bp 45° (0.05 mm), followed by 6.8 g (35%) of the title compound as a colorless liquid: bp 90° (0.05 mm); nD21 1.5246; ir (neat) 2925, 1580, 1380, 1260, 1090, 1015, 820, 740 cm -1 ; nmr (CDCl3) 0.4 (3H, s), 0.6-1.5 (9H, m), 2.9 (2H, s), 7.0-7.4 (4H, q).

reactant | 4-bromochlorobenzene | 0.075 mol, 14.4 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | chloromethyl(dichloro)methylsilane | 0.075 mol, 9.5 ml, 12.3 g | ClC[SiH2]C(Cl)Cl | C2H5Cl3Si
reactant | n-butyllithium | 0.15 mol, 1.6 molar, 94 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | hexane | CCCCCC | C6H14
solvent | lithium chloride | [Cl-].[Li+]
product | chloromethyl(dibutyl)methylsilane | 1.8 g, 12% | ClC[Si](C)(CCCC)CCCC | C10H23ClSi
